US04894384
Preparation of ethyl α-benzoyl-β-(4-chlorobenzoyl)-acrylate
A solution containing 13.5 g of 4-chloro-phenylglyoxal and 15.4 g of ethyl benzoylacetate in 100 ml of anhydrous benzene was heated at the boiling temperature in the presence of a catalytic amount of piperidine (0.3 ml), till complete azeotropic distillation of the water formed during the reaction (about 6 hours).

reactant | 4-chloro-phenylglyoxal | 13.5 g | ClC1=CC=C(C=C1)C(=O)C=O | C8H5ClO2
reactant | ethyl benzoylacetate | 15.4 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl α-benzoyl-β-(4-chlorobenzoyl)-acrylate | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CC(C1=CC=C(C=C1)Cl)=O | C19H15ClO4
